US08198456B2
To a stirred mixture of 13.40 g (25.74 mmol) 3-amino-5-(3,5-dicyano-1,4-dihydro-2,6-dimethyl-4-pyridinyl)-1H-indazole-1-carboxylic acid tert-butyl ester, from Synthetic Example 18, in 335 mL dry methanol, was added 2.19 mL acetaldehyde and 2.06 mL glacial acetic acid and the resulting mixture was stirred overnight at room temperature. The reaction was cooled (ice bath) before 3.24 g sodium cyanoborohydride was added in three portions. The mixture was stirred overnight at room temperature before the reaction was concentrated to roughly half volume under vacuum. The residue was partitioned between EtOAc and saturated aqueous sodium hydrogen carbonate solution and the organic extract washed with saturated aqueous sodium chloride solution and concentrated under vacuum. The residue was taken up in hot EtOAc and allowed to cool to room temperature before being triturated with diisopropyl ether. The stirred suspension was cooled (ice bath), filtered and the crude product washed with diisopropyl ether. The product was dried under vacuum to afford 5-(3,5-dicyano-1,4-dihydro-2,6-dimethyl-4-pyridinyl)-3-(ethylamino)-1H-indazole-1-carboxylic acid tert-butyl ester (8.25 g, 76.6%) (Cpd. No. 117, Table 2). 1H-NMR (DMSO-D6, 300 MHz): δ=9.54 (br s, 1H), 7.86 (d, 1H), 7.73 (m, 1H), 7.41 (dd, 1H), 6.82 (t, 1H), 4.47 (s, 1H), 3.26-3.34 (partially obscured by solvent, m, 2H), 2.02 (s, 6H), 1.57 (s, 9H), 1.21 (t, 3H) ppm.

reactant | 3-amino-5-(3,5-dicyano-1,4-dihydro-2,6-dimethyl-4-pyridinyl)-1H-indazole-1-carboxylic acid tert-butyl ester | 25.74 mmol, 13.40 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)C1C(=C(NC(=C1C#N)C)C)C#N)N | C21H22N6O2
reactant | acetaldehyde | 2.19 mL | C(C)=O | C2H4O
reactant | acetic acid | 2.06 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 3.24 g | C(#N)[BH3-].[Na+]
solvent | methanol | 335 mL | CO | CH4O
product | 5-(3,5-dicyano-1,4-dihydro-2,6-dimethyl-4-pyridinyl)-3-(ethylamino)-1H-indazole-1-carboxylic acid tert-butyl ester | 8.25 g, 76.6% | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)C1C(=C(NC(=C1C#N)C)C)C#N)NCC | C23H26N6O2
